US07381730B2
To an ice-cooled mixture of 365 mg (1.17 mmol) of 5,7-dimethoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinone, prepared according to the procedures described in Example 18 or 19, and 10 ml of CH2Cl2, 3 ml of BBr3 (31.7 mmol) was added. The mixture was stirred at room temperature for 2 days. The solvent was evaporated, the obtained residue treated with a cold NaHCO3 solution and extracted with EtOAc. The organic layer was washed with water and brine, dried over MgSO4 and evaporated to yield a solid which purification by flash chromatography on silica gel (loaded with CH2Cl2 and eluted with 66% EtOAc in hexane) gave 165 mg of 5,7-dihydroxy-3-(4-hydroxyphenyl)-4(3H)-quinazolinone (40% yield) as a white solid.

reactant | 5,7-dimethoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinone | 1.17 mmol, 365 mg | COC1=C2C(N(C=NC2=CC(=C1)OC)C1=CC=C(C=C1)OC)=O | C17H16N2O4
reactant | BBr3 | 31.7 mmol, 3 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 5,7-dihydroxy-3-(4-hydroxyphenyl)-4(3H)-quinazolinone | 165 mg, 40% yield | OC1=C2C(N(C=NC2=CC(=C1)O)C1=CC=C(C=C1)O)=O | C14H10N2O4
